US05039672
1. 6-fluoro-2,3-dihydro-4-cyano-4-[(trimethylsilyl)oxy]-4H-benzopyran
To a solution of 20 g (0.12 moles) of 2,3-dihydro-6-fluoro-4H-benzopyran-4-one (prepared from 4-fluorophenol and acrylonitrile as described in J. Med. Chem., 28, 1716 (1985) and 23 mL (0.18 moles) of trimethylsilyl cyanide in 220 mL of CH2Cl2 was added 500 mg of zinc iodide. The reaction was stirred at room temperature for 20 hours then poured onto ice-water. The CH2Cl2 layer was washed with water, 10% aqueous NaHCO3 and brine then dried over MgSO4, filtered and evaporated to give 32 g of crude product which was used without purification.

reactant | 2,3-dihydro-6-fluoro-4H-benzopyran-4-one | 0.12 moles, 20 g | FC=1C=CC2=C(C(CCO2)=O)C1 | C9H7FO2
reactant | 4-fluorophenol | FC1=CC=C(C=C1)O | C6H5FO
reactant | acrylonitrile | C(C=C)#N | C3H3N
reactant | trimethylsilyl cyanide | 0.18 moles, 23 mL | C[Si](C)(C)C#N | C4H9NSi
solvent | CH2Cl2 | 220 mL | C(Cl)Cl | CH2Cl2
catalyst | zinc iodide | 500 mg | [I-].[Zn+2].[I-]
product | 6-fluoro-2,3-dihydro-4-cyano-4-[(trimethylsilyl)oxy]-4H-benzopyran | 32 g | FC=1C=CC2=C(C(CCO2)(O[Si](C)(C)C)C#N)C1 | C13H16FNO2Si
